US07064124B2
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoic acid (0.800 g, 2.21 mmol) was dissolved in a mixed solvent of methanol (4 ml) and benzene (28 ml) and after adding thereto trimethylsilyldiazomethane (10% hexane solution) (0.303 g, 2.65 mmol), the solution was stirred at room temperature for 3 hours. The reaction solution was concentrated and the obtained residue was purified by silica gel column chromatography (hexand:ethyl acetate=3:1) to obtain the titled compound (0.800 g, 2.13 mmol, 96%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoic acid | 2.21 mmol, 0.800 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)O)C(=C(C1OC)OC)OC)C | C19H22O7
reactant | trimethylsilyldiazomethane | 2.65 mmol, 0.303 g | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 4 ml | CO | CH4O
solvent | benzene | 28 ml | C1=CC=CC=C1 | C6H6
product | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-hydroxybenzoate | 2.13 mmol, 0.800 g, 96% | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)O)C(=C(C1OC)OC)OC)C | C20H24O7
